US04328352
9.3 mg of N-toluenesulphonylhydrazide was added to a solution of 11.1 mg of 1,2,3,4,4a,5,6,7,8,8a-decahydro-2-oxo-4a-hydroxy-5,5,8a-trimethyl-1,6-methanonaphthalene in hot acetic acid. The mixture was refluxed for 10 minutes, subsequently poured into saturated aqueous NaHCO3 solution, extracted with CH2Cl2 and evaporated. The solution of the residue in 4 ml of ether was treated slowly at 25° C. with a 1-N solution of methyllithium in ether (0.225 ml), then stirred at 25° C. under argon, then poured into water and extracted with CH2Cl2. Chromatography (SiO2 /CH2Cl2) and sublimation at 100°-120° C. gave (+)-norpatchoulenol (m.p. 135°-141° C., 6.8 mg, 68% yield).

reactant | 1,2,3,4,4a,5,6,7,8,8a-decahydro-2-oxo-4a-hydroxy-5,5,8a-trimethyl-1,6-methanonaphthalene | 11.1 mg | O=C1C2C3(CCC(C(C3(CC1)O)(C)C)C2)C | C14H22O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (+)-norpatchoulenol | 6.8 mg, 68% yield | CC1(C2CCC3(C1(CC=CC3C2)O)C)C | C14H22O
